US07790741B2
Step B: 6-[6-(4-Fluorophenyl)-imidazo[2,1-b]oxazol-5-yl]-2-pyridin-4-yl-1H-benzimidazole
A mixture of 6-[6-(4-fluorophenyl)-imidazo[2,1-b]oxazol-5-yl]-2-pyridin-4-yl-1H-benzoimidazole 3-oxide (0.26 g, 0.56 mmol), tin(II) chloride dihydrate (0.64 g, 2.8 mmol) and EtOH (5.5 mL) was heated at about 70° C. for about 18 h. The reaction was poured over ice then the pH was adjusted to 8 with saturated aqueous NaHCO3 and filtered to remove tin salts. The filter cake was stirred with EtOAc (3×30 mL) then filtered. Each organic filtrate was then used to extract the initial aqueous filtrate. The combined organic layers were washed with brine, dried over Na2SO4, decanted, and concentrated. To the crude material was added 6 M HCl in water (0.94 mL; VWR). The reaction was cooled to about 0° C. and then NaNO2 (0.058 g, 0.85 mmol) in water (0.53 mL) was added dropwise. After about 2 h, no reaction was seen by LC-MS. The reaction was filtered, washing with water, and dried in the vacuum oven at 55-65° C. to give the title compound (0.15 g, 64%): LC/MS (Table 1, Method b) Rt, =1.82 min; MS m/z: 396.2 (M+H)+.

reactant | 6-[6-(4-fluorophenyl)-imidazo[2,1-b]oxazol-5-yl]-2-pyridin-4-yl-1H-benzoimidazole 3-oxide | 0.56 mmol, 0.26 g | FC1=CC=C(C=C1)C=1N=C2OC=CN2C1C=1C=CC2=C(NC(=[N+]2[O-])C2=CC=NC=C2)C1 | C23H14FN5O2
reactant | tin(II) chloride dihydrate | 2.8 mmol, 0.64 g | O.O.[Sn](Cl)Cl
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | NaNO2 | 0.85 mmol, 0.058 g | N(=O)[O-].[Na+]
solvent | water | 0.53 mL | O | H2O
solvent | EtOH | 5.5 mL | CCO | C2H6O
product | 6-[6-(4-Fluorophenyl)-imidazo[2,1-b]oxazol-5-yl]-2-pyridin-4-yl-1H-benzimidazole | 0.15 g, 64% | FC1=CC=C(C=C1)C=1N=C2OC=CN2C1C=1C=CC2=C(NC(=N2)C2=CC=NC=C2)C1 | C23H14FN5O
